US09351965B2
A reaction mixture of 3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxylic acid (0.3 mmol, 150 mg), (1-amino-3-(2,5-difluorophenoxy)piperidin-3-yl)methanol (0.28 mmol, 81 mg), HATU (0.3 mmol, 115 mg) and DIEA in DMA was stirred at room temperature for overnight. The product, N-(3-(2,5-difluorophenoxy)-3-(hydroxymethyl)piperidin-1-yl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide, was obtained after rotary evaporation of solvent.

reactant | 3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxylic acid | 0.3 mmol, 150 mg | CC1=NC=CC(=C1)C1=NN(C2=CC=C(C=C12)C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25N3O2
reactant | (1-amino-3-(2,5-difluorophenoxy)piperidin-3-yl)methanol | 0.28 mmol, 81 mg | NN1CC(CCC1)(OC1=C(C=CC(=C1)F)F)CO | C12H16F2N2O2
reactant | HATU | 0.3 mmol, 115 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | N-(3-(2,5-difluorophenoxy)-3-(hydroxymethyl)piperidin-1-yl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide | FC1=C(OC2(CN(CCC2)NC(=O)C=2C=C3C(=NN(C3=CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC(=NC=C2)C)CO)C=C(C=C1)F | C45H39F2N5O3
